US06667316B1
A mixture of 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]isoindoline-1,3-dione (0.7 g, 1.82 mmol), pyridinium chlorochromate (0.79 g, 3.64 mmol) and Celite (0.6 g) in methylene chloride (40 mL) was stirred at room temperature for 4 hours. The mixture was filtered through celite and the filtrate was washed with water, brine, dried and concentrated. The residue was purified by chromatography (silica gel, methylene chloride:ethyl acetate 95:5) to give 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]isoindoline-1,3-dione as a white solid (0.49 g, 71%); 1H NMR (CDCl3) δ7.38-7.31 (t, J=7.3 Hz, 1H), 7.08-7.05 (m, 3H), 6.81-6.77 (m, 2H), 5.74-5.67 (dd, J=5.9 and 9.4 Hz, 1H), 5.20 (s, 2H), 4.11 (q, J=7.0 Hz, 2H), 3.98-3.87 (dd, J=9.5 and 17.8 Hz, 1H), 3.83 (s, 3H), 3.33-3.23 (dd, J=5.6 and 17.7 Hz, 1H), 2.18-(s, 3H), 1.44 (t, J-6.9 Hz, 3H).

reactant | 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3-hydroxybutyl]isoindoline-1,3-dione | 1.82 mmol, 0.7 g | NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)O)C1=CC(=C(C=C1)OC)OCC)=O | C21H24N2O5
reactant | pyridinium chlorochromate | 3.64 mmol, 0.79 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-2-[1-(3-ethoxy-4-methoxyphenyl)-3-oxobutyl]isoindoline-1,3-dione | 0.49 g, 71% | NC1=C2C(N(C(C2=CC=C1)=O)C(CC(C)=O)C1=CC(=C(C=C1)OC)OCC)=O | C21H22N2O5
